US05053511
To a slurry consisting of 1,3-dihydro-1-[(phenylmethylene)amino]-spiro[2H-indene-2,3'-[3H]indole]-2'(1'H)one (13.8 g), and absolute ethanol (300 ml) was added hydrazine hydrate (13.9 ml). The resulting mixture was heated at reflux for 3 hours, cooled to room temperature and the resulting precipitate removed by filtration. The mother liquor was concentrated and the resulting oil solidified upon addition of ethyl acetate-hexane. The resulting solid was recovered by filtration. Additional product was obtained from the mother liquor as above. Recrystallization from ethyl acetate afforded 1-amino-1,3-dihydrospiro[2H-indene-2,3'-[3H]indol]-2'(1'H)one, m.p. 195°-197° C.

reactant | 1,3-dihydro-1-[(phenylmethylene)amino]-spiro[2H-indene-2,3'-[3H]indole]-2'(1'H)one | 13.8 g | C1(=CC=CC=C1)C=NC1C2=CC=CC=C2CC12C(NC1=CC=CC=C21)=O | C23H18N2O
reactant | hydrazine hydrate | 13.9 ml | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-amino-1,3-dihydrospiro[2H-indene-2,3'-[3H]indol]-2'(1'H)one | NC1C2=CC=CC=C2CC12C(NC1=CC=CC=C21)=O | C16H14N2O
